US07521447B2
Step C: 5-(2,4-Difluorophenoxy)-1-isobutyl-6-(morpholin-2-ylmethoxy)-1H-indazole:
To a solution of 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazol-6-ol (0.035 g, 0.11 mmol) in DMA (3.5 mL) was added Cs2CO3 (0.11 g, 0.33 mmol). The mixture stirred at room temperature for 1 hour before the addition of 2-bromomethylmorpholine-4-carboxylic acid tert-butyl ester (0.062 g, 0.22 mmol). The resulting mixture was stirred at room temperature for 14 hours. The reaction mixture was diluted with ether and water and the layers were separated. The aqueous layer was extracted with ether (3×) and the combined organic layers were washed with water and brine, and dried over Na2SO4. The crude mixture was concentrated under reduced pressure and purified by reverse phase HPLC to afford the desired product. MS (APCI+) m/z 418 (M+1) detected; 1H NMR (400 mHz, CD3OD) δ 7.90 (s, 1H), 7.38 (s, 1H), 7.21 (s, 1H), 7.11 (m, 1H), 6.84 (m, 2H), 4.22 (m, 2H), 4.18 (d, 2H), 4.05 (m, 2H), 3.31 (m, 3H), 3.03 (m, 2H), 2.31 (m, 1H), 0.92 (d, 6H)

reactant | 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazol-6-ol | 0.11 mmol, 0.035 g | FC1=C(OC=2C=C3C=NN(C3=CC2O)CC(C)C)C=CC(=C1)F | C17H16F2N2O2
reactant | Cs2CO3 | 0.33 mmol, 0.11 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromomethylmorpholine-4-carboxylic acid tert-butyl ester | 0.22 mmol, 0.062 g | C(C)(C)(C)OC(=O)N1CC(OCC1)CBr | C10H18BrNO3
solvent | DMA | 3.5 mL | CC(=O)N(C)C | C4H9NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-(2,4-Difluorophenoxy)-1-isobutyl-6-(morpholin-2-ylmethoxy)-1H-indazole | FC1=C(OC=2C=C3C=NN(C3=CC2OCC2CNCCO2)CC(C)C)C=CC(=C1)F | C22H25F2N3O3
